US06350733B1
STAGE A: 7-[(6-deoxy-5-C-methyl-4-O-methyl-alpha-L-lyxo-hexopyranosyl)oxy]-8-methyl-4-(2-propenyloxy)-2H-1-benzopyran-2-one
8.10 ml of diethyl azodicarboxylate is added dropwise to a mixture containing 8.50 g of the product of Preparation 2, 8.44 g of 6-deoxy 5-C-methyl-4-O-methyl-L-lyxo-hexopyranose. 11.52 g of triphenylphosphine, 100 ml of dichloromethane and 20 ml of tetrahydrofuran. The reaction medium is maintained under agitation for 2 hours at ambient temperature and 5.70 g of triphenylphosphine and 4.05 ml of diethyl azodicarboxylate are added. Agitation is maintained overnight at ambient temperature. After concentrating, the product is purified by chromatography on silica, eluting with a methylene chloride-acetone mixture (90-10). After evaporation and drying 8.304 g of sought product is collected.

reactant | diethyl azodicarboxylate | 8.10 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 6-deoxy 5-C-methyl-4-O-methyl-L-lyxo-hexopyranose | 8.44 g | CC1([C@@H]([C@H]([C@H](C(O)O1)O)O)OC)C | C8H16O5
reactant | triphenylphosphine | 11.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | triphenylphosphine | 5.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.05 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[(6-deoxy-5-C-methyl-4-O-methyl-alpha-L-lyxo-hexopyranosyl)oxy]-8-methyl-4-(2-propenyloxy)-2H-1-benzopyran-2-one | CC1([C@@H]([C@H]([C@H]([C@@H](O1)OC1=C(C2=C(C(=CC(O2)=O)OCC=C)C=C1)C)O)O)OC)C | C21H26O8
